US07572809B2
Similar procedure as described in example 10 was used, starting from 3-trifluoromethyl-phenol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-[1-(3-trifluoromethyl-phenoxy)-isoquinolin-3-yl]-amine. LC-MS m/e 385(MH+).

reactant | 3-trifluoromethyl-phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | (5-methyl-1H-pyrazol-3-yl)-[1-(3-trifluoromethyl-phenoxy)-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)OC1=CC(=CC=C1)C(F)(F)F | C20H15F3N4O
